US09315458B2
H) methyl 2-hydroxy-3,4-dimethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate
To a solution of methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.97 g), 3-[4-(chloromethyl)phenyl]-1-methyl-1H-pyrazole (0.65 g) and sodium carbonate (0.67 g) in a mixed solvent of 1,2-dimethoxyethane (12.0 mL)-water (4.00 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.18 g) under argon atmosphere, and the mixture was stirred overnight at 80° C. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.65 g).

reactant | methyl 2-hydroxy-3,4-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.97 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | 3-[4-(chloromethyl)phenyl]-1-methyl-1H-pyrazole | 0.65 g | ClCC1=CC=C(C=C1)C1=NN(C=C1)C | C11H11ClN2
reactant | sodium carbonate | 0.67 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 12.0 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 4.00 mL | O | H2O
product | methyl 2-hydroxy-3,4-dimethyl-5-(4-(1-methyl-1H-pyrazol-3-yl)benzyl)benzoate | 0.65 g | OC1=C(C(=O)OC)C=C(C(=C1C)C)CC1=CC=C(C=C1)C1=NN(C=C1)C | C21H22N2O3
